US08232294B2
Step 3) (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(tert-butoxycarbonylamino)acetate
To a solution of 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine (399 mg, 1.38 mmol), (R)-1-(2-(2-(tert-butoxycarbonylamino)acetoxy)propyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (500 mg, 1.15 mmol) in dry CH2Cl2 (5 mL) was added EDCI (264 mg, 1.38 mmol) and HOAT (32 mg, 0.23 mmol). The mixture reaction was refluxed for 3 h. The reaction mixture was then concentrated in vacuo and the residue was purified by a silica gel column chromatography (100% EtOAc) to give the title compound as a white solid (610 mg, 76%).

reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine | 1.38 mmol, 399 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)N | C16H13FN2O2
reactant | (R)-1-(2-(2-(tert-butoxycarbonylamino)acetoxy)propyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.15 mmol, 500 mg | C(C)(C)(C)OC(=O)NCC(=O)O[C@@H](CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)C | C21H27N3O7
reactant | EDCI | 1.38 mmol, 264 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.23 mmol, 32 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(tert-butoxycarbonylamino)acetate | 610 mg, 76% | C(C)(C)(C)OC(=O)NCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C | C37H38FN5O8
